US08029919B2
10-Methyl-3,7-diphenylphenothiazine
2.50 g (6.7 mmol) of 3,7-dibromo-10-methylphenothiazine (C. Bodea and M. Terdic, Acad. Rep. Rom. 1962, 13, 81-87), 1.85 g (14.9 mmol) of 98% phenylboronic acid, 0.11 g (0.14 mmol) of bis(triphenylphosphine)palladium dichloride and 1.03 g (7.4 mmol) of potassium carbonate were heated to boiling (75° C.) under reflux under nitrogen for 5 hours in 55 ml of dimethoxyethane and 28 ml of water. The reaction mixture was cooled to room temperature and stirred further overnight. The precipitate was filtered off with suction, washed successively with 125 ml of ethanol and hot water and dried at 70° C. under reduced pressure. The crude product (2.30 g) was heated to boiling under reflux in cyclohexane for two hours. After the hot suspension had been filtered, the residue was dried, dissolved in 40 ml of methylene chloride and filtered through a silica-gel-filled glass fit. After the solvent had been removed, 1.05 g (43% of theory) of light yellow, analytically pure solid having a melting point of 239-241° C. were obtained, whose solution in chloroform fluoresced at λ=464 nm.

reactant | 3,7-dibromo-10-methylphenothiazine | 6.7 mmol, 2.50 g | BrC=1C=CC=2N(C3=CC=C(C=C3SC2C1)Br)C | C13H9Br2NS
reactant | phenylboronic acid | 14.9 mmol, 1.85 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 7.4 mmol, 1.03 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethoxyethane | 55 ml | C(OC)COC | C4H10O2
solvent | water | 28 ml | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | bis(triphenylphosphine)palladium dichloride | 0.14 mmol, 0.11 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 10-Methyl-3,7-diphenylphenothiazine | CN1C2=CC=C(C=C2SC=2C=C(C=CC12)C1=CC=CC=C1)C1=CC=CC=C1 | C25H19NS
